US08530670B2
1-(1H-Benzo[d]imidazol-5-yl)-5-(4-(4,4-difluoropiperidin-1-yl)phenyl)-pyrrolidine-2,4-dione
The compound was synthesized starting from 1H-benzo[d]imidazol-5-amine (0.890 g, 6.69 mmol), 4-(4,4-difluoropiperidin-1-yl)benzaldehyde (1.5 g, 6.69 mmol), 2-(ethoxycarbonyl)acetic acid (0.883 g, 6.69 mmol), 1-isocyano-2-methylpropan-2-yl methyl carbonate (1.05 g, 6.69 mmol) and sodium tert.-butoxide (0.713 g, 6.35 mmol) according to method 3.

reactant | 1H-benzo[d]imidazol-5-amine | 6.69 mmol, 0.890 g | N1C=NC2=C1C=CC(=C2)N | C7H7N3
reactant | 4-(4,4-difluoropiperidin-1-yl)benzaldehyde | 6.69 mmol, 1.5 g | FC1(CCN(CC1)C1=CC=C(C=O)C=C1)F | C12H13F2NO
reactant | 2-(ethoxycarbonyl)acetic acid | 6.69 mmol, 0.883 g | C(C)OC(=O)CC(=O)O | C5H8O4
reactant | 1-isocyano-2-methylpropan-2-yl methyl carbonate | 6.69 mmol, 1.05 g | C(OC(C[N+]#[C-])(C)C)(OC)=O | C7H11NO3
reactant | sodium tert.-butoxide | 6.35 mmol, 0.713 g | CC(C)([O-])C.[Na+]
product | 1-(1H-Benzo[d]imidazol-5-yl)-5-(4-(4,4-difluoropiperidin-1-yl)phenyl)-pyrrolidine-2,4-dione | N1C=NC2=C1C=CC(=C2)N2C(CC(C2C2=CC=C(C=C2)N2CCC(CC2)(F)F)=O)=O | C22H20F2N4O2
